US04766222
Preparation of tert-butyl acetyl carnitine chloride
Carnitine chloride (1.97 g; 0.01 moles) was dissolved in trifluoroacetic acid (10 cc). To the solution tert-butyl acetyl chloride (1.4 cc; 0.01 moles) was slowly added under stirring. The resulting mixture was kept under stirring at room temperature for 48 hours. To the mixture Et2O was added and the thus obtained precipitate was filtered off. The raw product was crystallized from isopropanol-ethyl ether, thus obtaining a pure product. MP 164°-165° C. Yield 80%

reactant | Carnitine chloride | 0.01 moles, 1.97 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | tert-butyl acetyl chloride | 0.01 moles, 1.4 cc | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | Et2O | CCOCC | C4H10O
solvent | trifluoroacetic acid | 10 cc | FC(C(=O)O)(F)F | C2HF3O2
product | tert-butyl acetyl carnitine chloride | Yield 80% | C(C)(C)(C)C(C(O)(CC([O-])=O)C(C)=O)[N+](C)(C)C.[Cl-] | InChI=1S/C13H25NO4.ClH/c1-9(15)13(18,8-10(16)17)11(12(2,3)4)14(5,6)7;/h11,18H,8H2,1-7H3;1H/p-1
